US04908363
0.65 g of 1-amino-2-methylmercaptoimidazole are dissolved in 50 ml of methanol and treated with 3 ml of 2N hydrochloric acid. After the addition of 1.05 g of 4-hydroxy-3,5-di-tert.-butylbenzaldehyde, the reaction mixture is stirred at room temperature overnight. Subsequently, the solvent is removed by evaporation in a vacuum. The residue is suspended in 30 ml of water and treated with saturated sodium carbonate solution up to an alkaline reaction. The mixture is extracted three times with 20 ml of methylene chloride each time, the combined organic phases are dried over sodium sulfate, filtered and evaporated. The crystalline residue is recrystallized from water/methanol, and there is obtained 1-(4-hydroxy-3,5-di-tert.-butylbenzylideneamino)-2-methylmercaptoimidazole of m.p. 181°-183°.

reactant | 1-amino-2-methylmercaptoimidazole | 0.65 g | NN1C(=NC=C1)SC | C4H7N3S
reactant | hydrochloric acid | 2N, 3 ml | Cl | ClH
reactant | 4-hydroxy-3,5-di-tert.-butylbenzaldehyde | 1.05 g | OC1=C(C=C(C=O)C=C1C(C)(C)C)C(C)(C)C | C15H22O2
solvent | methanol | 50 ml | CO | CH4O
product | 1-(4-hydroxy-3,5-di-tert.-butylbenzylideneamino)-2-methylmercaptoimidazole | OC1=C(C=C(C=NN2C(=NC=C2)SC)C=C1C(C)(C)C)C(C)(C)C | C19H27N3OS
